US04889553
N-Benzoyl-N-(2,6-difluorophenyl)-5-methyl-1-(2-pyrimidinyl)-1,2,4-triazole-3-sulphonamide (Compound G1)
A suspension of N-(2,6-difluorophenyl)-5-methyl-1-(2-pyrimidinyl)-1,2,4-triazole-3-sulphonamide (1.5 g) (Compound A54) and anhydrous potassium carbonate (0.59 g) in dry acetone (50 ml) was heated under reflux for 30 minutes. A solution of benzoyl chloride (0.6 g) in acetone (50 ml) was added, and the mixture was refluxed for a further 2 hours. The mixture was then allowed to stand at 25° C. for 18 hours, after which it was warmed, filtered and evaporated. The solid produced was recrystallised from acetonitrile to give 1.05 g of the desired product, mp 218°-221° C.

reactant | N-(2,6-difluorophenyl)-5-methyl-1-(2-pyrimidinyl)-1,2,4-triazole-3-sulphonamide | 1.5 g | FC1=C(C(=CC=C1)F)NS(=O)(=O)C1=NN(C(=N1)C)C1=NC=CC=N1 | C13H10F2N6O2S
reactant | potassium carbonate | 0.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzoyl chloride | 0.6 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-Benzoyl-N-(2,6-difluorophenyl)-5-methyl-1-(2-pyrimidinyl)-1,2,4-triazole-3-sulphonamide | 1.05 g | C(C1=CC=CC=C1)(=O)N(S(=O)(=O)C1=NN(C(=N1)C)C1=NC=CC=N1)C1=C(C=CC=C1F)F | C20H14F2N6O3S
